US05763635
Ethyl-6-[5,6,7,8-tetrahydro-5,5-dimethyl-naphth-7-yl]naphth-2-oate (Compound B1)
To a degassed solution of 0.39 g (1.4 mmol) of ethyl 6-bromo-naphthalene-2-carboxylate and 3.0 mL of toluene, was added sequentially 49 mg (0.04 mmol) of tetrakis-triphenylphosphine palladium(O), 2.0 mL (2.0 mmol) of 1M sodium carbonate and then a solution of 0.32 g (1.6 mmol) of (5,6,7,8-tetrahydro-5,5-dimethylnaphth-2-yl)boronic acid (Compound B13) in 3.0 mL of MeOH. The reaction was heated at 80° C. for 6 h, diluted with 2N Na2CO3, and extracted with CH2Cl2 (2×), the organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo to give an oil. Flash chromatography (silica, 5% ethyl acetate in hexane) of the crude material gave the title compound as a white solid.

reactant | ethyl 6-bromo-naphthalene-2-carboxylate | 1.4 mmol, 0.39 g | BrC=1C=C2C=CC(=CC2=CC1)C(=O)OCC | C13H11BrO2
reactant | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | (5,6,7,8-tetrahydro-5,5-dimethylnaphth-2-yl)boronic acid | 1.6 mmol, 0.32 g | CC1(C=2C=CC(=CC2CCC1)B(O)O)C | C12H17BO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 3.0 mL | CO | CH4O
solvent | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | sodium carbonate | 2.0 mmol, 1M, 2.0 mL | C([O-])([O-])=O.[Na+].[Na+]
product | Ethyl-6-[5,6,7,8-tetrahydro-5,5-dimethyl-naphth-7-yl]naphth-2-oate | C(C)OC(=O)C1=CC2=CC=C(C=C2C=C1)C1CC(C=2C=CC=CC2C1)(C)C | C25H26O2
